US06903092B2
Ethyl-3-bromo-2,4-dihydroxy-1-naphthoate
To a solution of ethyl-2,4-dihydroxy-1-naphthoate [Bruggink and McKillop Tetrahedron 31, 2607, 1975] (0.1 g, 0.43 mmol) in acetonitrile (2 mL) was added NBS (84 mg, 0.47 mmol). The mixture was stirred at RT for 30 min. The acetonitrile was removed in vacuo and CCl4 was added. The solution was filtered and concentrated. The crude product was purified by chromatography (eluting with DCM) to give the product (0.13 g, 93% yield) as a white solid. 1H NMR (CDCl3) δ 13.61 (s, 1H), 8.79 (d, 1H), 8.24 (d, 1H), 7.58 (t, 1H), 7.41 (t, 1H), 6.61 (s, 1H), 4.60 (q, 2H), 1.55 (t. 3H). MS APCI negative mode m/z 310.84.

reactant | ethyl-2,4-dihydroxy-1-naphthoate | 0.43 mmol, 0.1 g | C(C)OC(=O)C1=C(C=C(C2=CC=CC=C12)O)O | C13H12O4
reactant | NBS | 0.47 mmol, 84 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | Ethyl-3-bromo-2,4-dihydroxy-1-naphthoate | 0.13 g, 93% yield | C(C)OC(=O)C1=C(C(=C(C2=CC=CC=C12)O)Br)O | C13H11BrO4
